US07553848B2
6-Bromo-naphthalene-2-carboxylic acid quinolin-3-ylamide.
This material was prepared analogous to the procedure described for Example 1(b). 6-Bromo-naphthalene-2-carbonyl chloride, Example 1(a), reacted with 3-aminoquinoline (Aldrich) to give the title compound as a green amorphous solid. MS (ESI, pos. ion.) m/z: 377 (M+1).

reactant | 6-Bromo-naphthalene-2-carbonyl chloride | BrC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C11H6BrClO
reactant | 3-aminoquinoline | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
product | 6-Bromo-naphthalene-2-carboxylic acid quinolin-3-ylamide | N1=CC(=CC2=CC=CC=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C20H13BrN2O
